US07375104B2
a) 7-acetyl-5-benzyloxy-3H-benzooxazol-2-one
51.1 mL (97.04 mmol) of a phosgene solution (20% by weight in toluene) are added at 0° C. to a solution of 22.7 g (88.22 mmol) of 1-(3-amino-5-benzyloxy-2-hydroxyphenyl)ethanone in toluene (200 mL). Then 30.7 mL (220.6 mmol) of triethylamine is added dropwise such that the temperature does not exceed 5° C. After 1 hour stirring at ambient temperature, a further 4.6 mL of phosgene solution and 12 mL of triethylamine are added at 0° C. The mixture is stirred for 1 hour at ambient temperature, diluted with dichloromethane and combined with saturated aqueous ammonium chloride solution (500 mL) and 2 N aqueous hydrochloric acid (10 mL). After the aqueous phase has been separated off it is exhaustively extracted with dichloromethane. The combined organic phases are washed with water and saturated aqueous sodium chloride solution, dried with sodium sulfate and evaporated down in vacuo, during which time a beige solid is precipitated. The precipitate is filtered off, washed with a little toluene, and dried at 50° C. in vacuo. Yield: 18.5 g (74%); Rf=0.19 (silica gel, toluene/acetone 95:10); ESI-MS: [M+H]+=284.

reactant | phosgene | 97.04 mmol, 51.1 mL | C(=O)(Cl)Cl | CCl2O
reactant | 1-(3-amino-5-benzyloxy-2-hydroxyphenyl)ethanone | 88.22 mmol, 22.7 g | NC=1C(=C(C=C(C1)OCC1=CC=CC=C1)C(C)=O)O | C15H15NO3
reactant | phosgene | 4.6 mL | C(=O)(Cl)Cl | CCl2O
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 N, 10 mL | Cl | ClH
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 12 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 220.6 mmol, 30.7 mL | C(C)N(CC)CC | C6H15N
product | 7-acetyl-5-benzyloxy-3H-benzooxazol-2-one | C(C)(=O)C1=CC(=CC=2NC(OC21)=O)OCC2=CC=CC=C2 | C16H13NO4
